US07256298B2
To a solution of 6.7 g (35.0 mmol) of 3-ethanesulfonyl-5,5-dimethyl-2-isoxazoline in 50 ml of N,N-dimethylformamide was added 5.6 g (purity: 70%, 70.0 mmol) of sodium hydrosulfide, followed by 1 hour of stirring at room temperature. Thereafter, 4.8 g (35.0 mmol) of potassium carbonate and 10.8 g (35.0 mmol) of 4-bromomethyl-5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole were added thereto, followed by stirring at room temperature overnight. After the completion of the reaction was confirmed, the reaction solution was poured into water and extracted with ethyl acetate. The resulting organic layer was washed with water and saline and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure and the residue was purified by silica gel column chromatography to obtain 7.3 g (yield: 57.9%) of 3-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline as white crystals (melting point: 39 to 40° C.).

reactant | 3-ethanesulfonyl-5,5-dimethyl-2-isoxazoline | 35.0 mmol, 6.7 g | C(C)S(=O)(=O)C1=NOC(C1)(C)C | C7H13NO3S
reactant | sodium hydrosulfide | 70.0 mmol, 5.6 g | [SH-].[Na+]
reactant | potassium carbonate | 35.0 mmol, 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethyl-5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole | 35.0 mmol, 10.8 g | BrCC=1C(=NN(C1OC(F)F)C)C(F)(F)F | C7H6BrF5N2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 7.3 g, yield: 57.9% | FC(OC1=C(C(=NN1C)C(F)(F)F)CSC1=NOC(C1)(C)C)F | C12H14F5N3O2S
